Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Chlorhexadine / Cephalosporins
 
Attending: ___
 
Chief Complaint:
Altered Mental Status 
 
Major Surgical or Invasive Procedure:
___ ___ removal of left femoral HD line
___ Right femoral temp dialysis line placed
___ Hip washout 
___ TEE
 
History of Present Illness:
___ yo M pmhx ESRD on HD, ischemic cardiomyopathy (last EF 
___,
s/p ICD placement), and DM admitted with altered mental status.
Patient was transferred from ___ where work up
was notable for a CTA which showed a subsegmental pulmonary
embolus and cardiomegaly and partial imaging of the abdomen 
which
showed small volume ascites. ___ also had reportedly elevated
blood sugars in the 300s and was started on an insulin gtt
briefly, venous pH at that time was 7.32, and the gtt was
gradually weaned off.  

Other labs at ___ were notable for: Bili 3.8, direct bili 2.0,
ALP 225, lactic acid 2.2. Troponin T 0.16-->0.14, lactic acid
2.2. WBC 10 K 5.9-->4.8 with insulin gtt. AG 21.  NCHCT and CXR
negative. 

In the ED,  
-Initial Vitals:  97.5 136/58 108 25 99% 3L NC

-Exam:  
Gen: Patient is somnolent but arousable to voice, unable to
follow commands
Lung: Lungs are clear, abdomen is soft and nondistended
Ext: Bilateral lower extremity BKA's

-Labs: 
K: 5.2, HCO3: 15 BUN: 83 Cr: 4.9 ALT: 14 AST: 27 AKOL 194 Tbili:
3 DBili 2.0 Lactate 3.2 UA with mod leuks and blood, few 
bacteria

-Imaging:  
1. Heterogeneous liver parenchyma without intrahepatic biliary
ductal
dilation. The common bile duct is dilated.
2. The gallbladder is mildly distended and contains multiple
stones without
wall thickening.
3. Small to moderate volume ascites.
4. Moderate splenomegaly.

-Consults:  Urology for foley placement 

-Interventions:  
Vanco 1000mg IV, zosyn 4.5 IV, acetaminophen 650 mg PR, LR 500cc 


On arrival to the floor, the patient is interactive and alert.
Thinks ___ as at ___. Able to recent days of the week backwards.
Unable to state why ___ missed HD on ___. Reports minor 
dysuria
for an unclear duration. 

No f/c/cp/sob/cough. 

ROS: Positives as per HPI; otherwise negative.  
 
Past Medical History:
1. CARDIAC RISK FACTORS
- Diabetes Type II
- Hypertension
- Dyslipidemia
2. CARDIAC HISTORY
- CABG: 5-vessel in ___
- NSTEMI treated medically circa ___
- PERCUTANEOUS CORONARY INTERVENTIONS: None
- PACING/ICD: St. ___ single chamber dual coil ICD (per ADH
notes); batteries not working and currently infected on this
admission
3. OTHER PAST MEDICAL HISTORY
- AF 
- Ischemic cardiomyopathy (EF 15%)
- PAD s/p multiple bypasses and bilateral BKA
- Chronic pain syndrome
- Nocturia
- Peripheral neuropathy
- CKD on HD (___)
- Cardioembolic stroke (L hemiplegia, ___ Neurology)
- L atrial appendage clot 
- Ventricular tachycardia
- Hx rhabdomyolysis
- reported history of HIT but heparin-dependent abx ___ neg

SURGICAL HISTORY
L fem-peroneal bypass ___: LLE angiogram, L BK
___ bypass w/ NRSVG (Cambpell), R BKA ___, 
___,
R pop-DP bypass, ___ toe amputation ___ (___ 
___, Vascular surgeon Dr ___, RLE hematoma
evacuation ___ (___), bypass graft explantation,
tonsillectomy, Debridement ankle infection ___ Revision right
ankle ligament reconstruction with Achilles tendon allograft
___, 5V CABG ___. L ___ ___. R BKA 
(___).

 
Social History:
___
Family History:
positive for multiple members w/ CAD, DM, stroke
 
Physical Exam:
Admission Physical Exam:
========================
VS: 98.5 ___ 20 100% 3L NC
GENERAL: Alert and interactive. In no acute distress.  Slow to
respond to questions, able to do the days of week backwards.
Oriented to year and person, not to place 
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.  
NECK: No cervical lymphadenopathy. No JVD.  
CARDIAC: irregular rate/rhythm. Audible S1 and S2. No
murmurs/rubs/gallops.  
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.  
BACK: No spinous process tenderness. No CVA tenderness.  
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.  
EXTREMITIES: No clubbing, cyanosis, or edema. Bilateral BKAs. No
skin breakdown on stumps bilaterally 
SKIN: Warm. Cap refill <2s. No rash.  
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. Gait is normal. AOx3.  
Access: Left EJ, 2 right PIV  Left femoral HD line

DEATH EXAM:
===========
On death examination patient was not visibly breathing. Chest 
was
auscultated for 1 minute with no breath sounds or heart sounds
appreciated. Bedside echo without evidence of myocardial
contraction. Carotid and femoral pulses were absent. Pupils were
fixed and dilated.

Time of death was 15:52 on ___. The attending of record,
___, was present. The patient's family was contacted 
and
offered condolences. The possibility of autopsy was offered and
declined by son & healthcare proxy, ___.
 
Pertinent Results:
Admission Labs:
===============
___ 02:37PM   VANCO-12.3
___ 12:48PM   GLUCOSE-134* UREA N-87* CREAT-5.0* 
SODIUM-132* POTASSIUM-5.2 CHLORIDE-94* TOTAL CO2-18* ANION 
GAP-20*
___ 12:48PM   ALT(SGPT)-11 AST(SGOT)-25 LD(LDH)-271* ALK 
PHOS-164* TOT BILI-2.8*
___ 12:48PM   CALCIUM-8.1* PHOSPHATE-5.5* MAGNESIUM-2.1
___ 12:48PM   HAPTOGLOB-149
___ 12:48PM   WBC-8.2 RBC-3.69* HGB-9.8* HCT-31.1* MCV-84 
MCH-26.6 MCHC-31.5* RDW-19.2* RDWSD-58.7*
___ 12:48PM   PLT COUNT-83*
___ 12:48PM   ___ PTT-28.6 ___
___ 12:48PM   ___ 04:38AM   ___ PO2-51* PCO2-34* PH-7.37 TOTAL 
CO2-20* BASE XS--4
___ 04:38AM   LACTATE-1.7
___ 04:33AM   GLUCOSE-167* UREA N-81* CREAT-4.9* 
SODIUM-134* POTASSIUM-5.2 CHLORIDE-95* TOTAL CO2-17* ANION 
GAP-22*
___ 04:33AM   CALCIUM-8.3* PHOSPHATE-4.7* MAGNESIUM-1.9
___ 04:26AM URINE  HOURS-RANDOM
___ 04:26AM URINE  UHOLD-HOLD
___ 04:26AM URINE  COLOR-Yellow APPEAR-Hazy* SP ___
___ 04:26AM URINE  BLOOD-MOD* NITRITE-NEG PROTEIN-600* 
GLUCOSE-150* KETONE-NEG BILIRUBIN-SM* UROBILNGN-2* PH-6.5 
LEUK-MOD*
___ 04:26AM URINE  RBC-152* WBC-106* BACTERIA-FEW* 
YEAST-NONE EPI-1
___ 04:26AM URINE  HYALINE-3*
___ 04:26AM URINE  MUCOUS-RARE*
___ 01:57AM   TYPE-CENTRAL VE PO2-43* PCO2-29* PH-7.39 
TOTAL CO2-18* BASE XS--5
___ 01:57AM   LACTATE-3.2*
___ 01:57AM   O2 SAT-74
___ 01:41AM   GLUCOSE-132* UREA N-83* CREAT-4.9*# 
SODIUM-132* POTASSIUM-5.2 CHLORIDE-94* TOTAL CO2-15* ANION 
GAP-23*
___ 01:41AM   estGFR-Using this
___ 01:41AM   ALT(SGPT)-14 AST(SGOT)-27 ALK PHOS-194* TOT 
BILI-3.0* DIR BILI-2.0* INDIR BIL-1.0
___ 01:41AM   ALBUMIN-3.4* CALCIUM-8.9 PHOSPHATE-4.6* 
MAGNESIUM-2.1
___ 01:41AM   ALBUMIN-3.4* CALCIUM-8.9 PHOSPHATE-4.6* 
MAGNESIUM-2.1
___ 01:41AM   WBC-10.3* RBC-3.96* HGB-10.5* HCT-33.9* 
MCV-86 MCH-26.5 MCHC-31.0* RDW-19.3* RDWSD-59.8*
___ 01:41AM   NEUTS-87.8* LYMPHS-3.9* MONOS-7.0 EOS-0.0* 
BASOS-0.2 IM ___ AbsNeut-9.00* AbsLymp-0.40* AbsMono-0.72 
AbsEos-0.00* AbsBaso-0.02
___ 01:41AM   HOS-AVAILABLE 
___ 01:41AM   PLT COUNT-93*

Pertinent Studies:
==================
CT abd/pelv ___
Final Report 
EXAMINATION:  CT ABD AND PELVIS WITH CONTRAST 
IMPRESSION: 
1. Heterogeneous liver parenchyma without intrahepatic biliary 
ductal 
dilation.  The common bile duct is dilated. 
2. The gallbladder is mildly distended and contains multiple 
stones without 
wall thickening. 
3. Moderate volume ascites and edematous intra-abdominal fat. 
4. Moderate splenomegaly. 

RUQUS ___
IMPRESSION: 
1. Patent hepatic vasculature. 
2. Cholelithiasis without evidence of cholecystitis. 
3. Splenomegaly and moderate ascites. 

Transthoracic Echo ___
IMPRESSION: Severely dilated severely hypokinetic left ventricle 
with regional variation (see above and schematic). Moderately 
dilated severely hypokinetic right ventricle. At least moderate 
tricuspid regurgitation (suggested by color doppler) and 
possibly severe (holosystolic flow
reversal seen proximally in a hepatic vein clip 69 that is 
discordant with amount of color flow, but the TR was not well 
visualized in the apical views and could have been 
UNDERestimated. No valvular vegetations. If clinically 
suggested, the absence of a discrete vegetation on
echocardiography does not exclude the diagnosis of endocarditis. 
No prior study is available for comparison (but EF 20% known 
from ___ echos).

___ ___
IMPRESSION: Patent bilateral cephalic and basilic veins.  
Measurements as above. Bilateral radial arteries are heavily 
calcified. Minimal plaque is identified in bilateral brachial 
arteries. 

UENI ___
IMPRESSION: The right great saphenous vein is patent.  The left 
great saphenous vein is patent but terminates in the mid thigh.  
Measurements as above. 

LIVER OR GALLBLADDER US ___
IMPRESSION:  
1. Cholelithiasis with sludge, but no features of cholecystitis. 

2. No intrahepatic bile duct dilatation.  Mild dilatation of the 
CHD appear similar compared to prior. 

DX PELVIS & FEMUR ___
IMPRESSION:  
There is a impacted fracture of the subcapital portion of the 
right femur.  The alignment is unchanged from previous.  There 
is no gross bony destruction to indicate radiographic signs for 
acute osteomyelitis or septic hip. However, if there is high 
clinical concern for joint infection, MRI could be performed.  
There are extensive vascular calcifications.  The patient is 
status post below the knee amputation.  There is extensive 
demineralization. 

HIP ASPIRATION ___
IMPRESSION: 1. Technically successful aspiration of right hip. 
I Dr. ___ supervised the 
Resident/Fellow during the key components of the above procedure 
and I have reviewed and agree with the Resident/Fellow 
findings/dictation. 

C-Spine ___
IMPRESSION: No radiopaque foreign body in the soft tissues of 
the neck. 

MR HEAD W/OUT CONTRAST ___
IMPRESSION: Severely motion degraded study, limiting assessment. 
 Within these confines: 
1. Possible punctate foci of subacute infarction in the inferior 
right 
occipital lobe and in the left occipital white matter. 
2. Indeterminate foci of FLAIR hyperintensity in the cortex or 
subcortical 
white matter in the left frontal lobe and left parietal lobe, 
unable to be 
adequately evaluated due to the degree of motion degradation on 
this study.  Note that this noncontrast study is not sensitive 
in evaluating for the presence of meningitis/cerebritis. 
3. Chronic right frontal and left temporal lobe infarcts. 
4. Multiple bilateral chronic cerebellar infarcts. 
5. Mild global parenchymal volume loss. 
6. Trace right mastoid effusion. 

LIVER OR GALLBLADDER US ___
IMPRESSION: 
1. Cholelithiasis and sludge without evidence of acute 
cholecystitis. 
2. Stable mild dilatation of the common bile duct.  No 
intrahepatic biliary duct dilatation. 
3. Trace ascites. 
  
TEE ___
IMPRESSION: No discrete vegetation or abscess seen. Patent 
foramen ovale. Reduced overall left ventricular systolic 
function. Mild mitral Regurgitation. Moderate tricuspid 
regurgitation.

MICROBIOLOGY
============
Staph Aureas Coag + in blood cultures daily from ___ - ___ 
despite abx

FINAL LABS:
===========
___ 02:48PM BLOOD WBC-16.9* RBC-3.55* Hgb-9.6* Hct-31.8* 
MCV-90 MCH-27.0 MCHC-30.2* RDW-20.4* RDWSD-66.3* Plt Ct-53*
___ 02:48PM BLOOD ___ PTT-50.6* ___
___ 02:48PM BLOOD Glucose-125* UreaN-24* Creat-3.4*# Na-142 
K-4.5 Cl-100 HCO3-23 AnGap-19*
___ 02:48PM BLOOD ALT-33 AST-227* LD(LDH)-731* AlkPhos-748* 
TotBili-3.4*
___ 02:48PM BLOOD Calcium-7.3* Phos-5.1* Mg-2.4
___ 03:40PM BLOOD Type-CENTRAL VE Rates-18/ Tidal V-420 
PEEP-10 FiO2-100 pO2-20* pCO2-97* pH-7.03* calTCO2-28 Base 
XS--10 AADO2-596 REQ O2-98 Intubat-INTUBATED
 
Brief Hospital Course:
Brief FICU Course:
==================
Patient was admitted on ___ with altered mental status after 
missing dialysis on ___. ___ was admitted with a mild acidosis 
and hyperuremia and received HD on ___ with improvement in 
his mental status. ___ was mildly hypotensive after HD and 
received 2 250 cc fluid boluses with normalization of his 
pressures. 

On ___, blood cultures returned positive for GPCs, concern 
for a likely HD line infection. ___ was continued on vancomycin. 
On ___, cultures returned positive for MRSA. His left femoral 
HD line was removed on ___ and a temporary right femoral HD 
line was placed on ___. ___ was persistently bactermeic, and 
underwent TEE on ___ which showed no vegetations with 
moderate TR/MR. ___ also complained of right hip pain, concerning 
for seeding of his previously known fractured hip. ___ underwent 
___ guided aspiration of the hip joint on ___ which showed 
staph aureus similar to his blood cultures.

On admission, Urinalysis was concerning for a urinary tract 
infection and patient was started on zosyn, later switched to 
cefepime and flagyl. His urine culture returned positive for 
MRSA which was likely hematogenous spread from his bacteremia. 
Cefepime/flagyl were then discontinued. 

On admission, ___ was noted to have cholelithiasis and a dilated 
CBD on ct/abd pelvis with associated hyperbilirubinemia but no 
Transaminitis. Given his relative clinical stability and blood 
cultures being positive with MRSA, MRCP was deferred. 

Throughout his time in the ICU ___ continued to have blood 
cultures positive for MRSA despite appropriate antibiotic 
treatment. Discontinuation of central venous access was not 
possible due to continued need for central venous access 
medications and hemodialysis.  His clinical status continued to 
deteriorate requiring pressors to maintain his blood pressure. 
On ___ around 1430 patient became severely bradycardic and 
eventually lost his pulse. CPR was started and ROSC was 
temporarily obtained. ___ subsequently coded again for PEA 
arrest. Resuscitation was attempted but ultimately was not 
achieved. Patient was pronounced at the bedside.  Family was 
contacted.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Apixaban 5 mg PO BID 
2. ARIPiprazole 5 mg PO ONE TABLET DAILY. 
3. Aspirin 81 mg PO DELAYED REALEASE (___) ONE TABLET DAILY.  
4. Atorvastatin 80 mg PO ONE TABLET DAILY. 
5. BuPROPion (Sustained Release) 150 mg PO ONE TABLET DAILY. 
6. Omeprazole 40 mg PO BID 
7. OxyCODONE (Immediate Release) 20 mg PO TID 
8. glimepiride 1 mg oral ONE TABLET DAILY. 
9. Acetaminophen 1000 mg PO Q8H 
10. Lisinopril 5 mg PO DAILY 
11. Metoprolol Succinate XL 50 mg PO DAILY 
12. Torsemide 100 mg PO 4X/WEEK (___) 
13. Sertraline 150 mg PO DAILY 

 
Discharge Medications:
N/A
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Chief Cause of Death: sepsis / MRSA bacteremia
Immediate Cause of Death: hypoxemic respiratory failure
Other contributing cause: renal failure
 
Discharge Condition:
EXPIRED
 
Discharge Instructions:
N/A
 
Followup Instructions:
___